US09127024B2
Step 3: Synthesis of methyl 4-formyl-2-methyl-3-(((trifluoromethyl)sulfonyl)oxy)benzoate
To a stirred solution of methyl 4-formyl-3-hydroxy-2-methylbenzoate (1.1 g, 5.66 mmol) in anhydrous DCM (22 ml) at −78° C. under argon was added triflic anhydride (1.6 g, 5.66 mmol) drop wise followed by triethylamine (0.79 ml, 5.66 mmol). The reaction mixture was stirred overnight and allowed to warm to room temperature. The reaction mixture turned colorless to yellow during addition and then light brown overnight. LCMS overnight stirring showed single peak. After regular aqueous work up and extraction with DCM, the organic fractions were collected, dried over anhydrous MgSO4, filtered and concentrated. The crude mixture was adsorbed on silica gel and dried. This was loaded on the cartridge and purified using an ISCO system (24 g silica gel column, hexane/EtOAc gradient). The product fractions were collected and dried under vacuum to give 1.58 g (85% of the final product). 1H NMR (400 MHz, CDCl3) δ 10.26 (s, 1H), 7.99 (d, J=8.1 Hz, 1H), 7.89 (d, J=8.1 Hz, 1H), 3.96 (s, 3H), 2.63 (s, 3H).

reactant | methyl 4-formyl-3-hydroxy-2-methylbenzoate | 5.66 mmol, 1.1 g | C(=O)C1=C(C(=C(C(=O)OC)C=C1)C)O | C10H10O4
reactant | triflic anhydride | 5.66 mmol, 1.6 g | S(=O)(=O)(C(F)(F)F)OS(=O)(=O)C(F)(F)F | C2F6O5S2
reactant | triethylamine | 5.66 mmol, 0.79 ml | C(C)N(CC)CC | C6H15N
solvent | DCM | 22 ml | C(Cl)Cl | CH2Cl2
product | methyl 4-formyl-2-methyl-3-(((trifluoromethyl)sulfonyl)oxy)benzoate | 85% | C(=O)C1=C(C(=C(C(=O)OC)C=C1)C)OS(=O)(=O)C(F)(F)F | C11H9F3O6S
